US07220875B2
Step A: Cbz-Dap(Boc)-Ala-OBn (247)
Cbz-Dap(Boc)-OH (0.41 g, 1.2 mmol) was treated with a mixture of 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide methiodide (0.374 g, 1.26 mmol) and N-hydroxybenzotriazole (0.17 g, 1.26 mmol) in N-methylmorpholine (0.28 mL, 2.1 mmol) in dichloromethane. H-Ala-OBn (0.26 g, 1.2 mmol) was added to the above solution and the resulting mixture was stirred for 14 h at room temperature, then diluted with ethyl acetate (40 mL). The organic solution was washed with 10% aqueous citric acid solution (2×30 mL), saturated aqueous sodium bicarbonate solution (2×30 mL) and brine (2×30 mL). The organic layer was dried over magnesium sulfate and then concentrated in vacuo. The crude compound (247) (0.51 g) was used without further purification.

reactant | Cbz-Dap(Boc)-OH | 1.2 mmol, 0.41 g | N([C@@H](CNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H22N2O6
reactant | N-hydroxybenzotriazole | 1.26 mmol, 0.17 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 2.1 mmol, 0.28 mL | CN1CCOCC1 | C5H11NO
reactant | H-Ala-OBn | 1.2 mmol, 0.26 g | N[C@@H](C)C(=O)OCC1=CC=CC=C1 | C10H13NO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | Cbz-Dap(Boc)-Ala-OBn | N([C@@H](CNC(=O)OC(C)(C)C)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C26H33N3O7
